US09108969B2
Step B: Preparation of 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-cyclopropyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
tert-Butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-cyclopropyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (9.2 mg, 0.017 mmol) was added to a solution of 2-amino-3-mercaptopropanoic acid (2.013 mg, 0.017 mmol) in TFA (1 mL) and the resulting mixture was stirred at room temperature for 15 min in a 20 mL sealed scintillation vial. After 15 min, the reaction mixture was poured into approximately 4 mL of ice water. A precipitate formed and was collected by vacuum filtration. The solid was washed with n-hexane (3×5 mL) and dried (vacuum oven) to give the title compound as a off-white solid (5.5 mg). LCMS m/z=498.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.35-0.43 (m, 1H), 0.55-0.64 (m, 1H), 0.74-0.88 (m, 2H), 1.55-1.78 (m, 5H), 1.79-1.89 (m, 2H), 1.94-2.05 (m, 2H), 2.19-2.30 (m, 1H), 2.42-2.48 (m, 1H), 2.69-2.81 (m, 1H), 2.93 (dd, J=15.92, 3.79 Hz, 1H), 120-3.30 (m, 1H), 3.54-3.65 (m, 1H), 3.84-3.94 (m, 1H), 3.97-4.07 (m, 1H), 5.15 (s, 2H), 6.76 (dd, J=8.59, 2.27 Hz, 1H), 7.05 (d, J=2.27 Hz, 1H), 7.14 (d, J=8.59 Hz, 1H), 7.62 (d, J=8.33 Hz, 1H), 7.67-7.77 (m, 2H), 12.28 (bs, 1H).

reactant | tert-Butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-cyclopropyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.017 mmol, 9.2 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C4CC4)C=C1)C(F)(F)F | C33H38F3NO3
reactant | 2-amino-3-mercaptopropanoic acid | 0.017 mmol, 2.013 mg | NC(C(=O)O)CS | C3H7NO2S
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-cyclopropyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 5.5 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)O)C4CC4)C=C1)C(F)(F)F | C29H30F3NO3
